US04367229
10.4 g. of ethyl 4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine-3-carboxylate are dissolved in 30 ml. of 30% by weight of ammonium hydroxide solution. The precipitated crystals are filtered after 2 hours. 8.7 g. of 3-carbamoyl-4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine are obtained with a yield of 96.6%, which melts at 293° C. after recrystallization from dimethyl formamide.

reactant | ethyl 4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine-3-carboxylate | O=C1C(=CN=C2N1CCC2)C(=O)OCC | C10H12N2O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-carbamoyl-4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine | yield of 96.6% | C(N)(=O)C1=CN=C2N(C1=O)CCC2 | C8H9N3O2
